US08729078B2
In a microwave flask, a suspension of 5-bromofuran-2-carboxamide (200 mg, 1.05 mmol), acetic acid 2-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl ester (Intermediate-5, 1.04 g, 2.11 mmol), X-PHOS (50.2 mg, 0.105 mmol), Pd2(dba)3 (48.2 mg, 0.052 mmol) and potassium phosphate (894 mg, 4.21 mmol) in dioxane (7 ml) and water (0.7 ml) was degassed with argon for 3-5 min. The mixture was set in a microwave at 125° C. for 30 min. Water was added and the mixture was extracted with ethyl acetate twice. The organic layer was washed with brine, dried over sodium sulfate and evaporated to dryness. The crude material was purified by flash column chromatography (ethyl acetate in hexanes, gradient to 100% ethyl acetate) to obtain acetic acid 2-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-6-(5-carbamoyl-furan-2-yl)-benzyl ester (78.5 mg, 16%).

reactant | 5-bromofuran-2-carboxamide | 1.05 mmol, 200 mg | BrC1=CC=C(O1)C(=O)N | C5H4BrNO2
reactant | acetic acid 2-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl ester | 2.11 mmol, 1.04 g | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=C(COC(C)=O)C(=CC=C1)B1OC(C(O1)(C)C)(C)C | C27H32BFN2O5
reactant | X-PHOS | 0.105 mmol, 50.2 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium phosphate | 4.21 mmol, 894 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.7 ml | O | H2O
catalyst | Pd2(dba)3 | 0.052 mmol, 48.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | acetic acid 2-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-6-(5-carbamoyl-furan-2-yl)-benzyl ester | 78.5 mg, 16% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=C(COC(C)=O)C(=CC=C1)C=1OC(=CC1)C(N)=O | C26H24FN3O5
